US08664235B2
(cis-4-tert-butyl-cyclohexyl)-[6-chloro-5-ethyl-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl]-amine
0.280 g (2.76 mmol) Triethylamine, a spatula tip of tetrabutylammonium iodide and 0.393 g (2.53 mmol) of cis-4-tert-butylcyclohexylamine were added successively to a solution of 0.500 g (2.3 mmol) of 5-ethyl-6,7-dichloro-[1,2,4]triazolo[1,5-a]pyrimidine in 10 ml of toluene under stirring. The reaction mixture was heated at reflux for 5 hours and then stirred for another 12 hours at room temperature. The solvent was evaporated under reduced pressure and dichloromethane was added to the resulting residue. The resulting reaction mixture was washed with 2N hydrochloric acid and water. The organic phase was separated, dried and the solvent was evaporated under reduced pressure. Treatment of the resulting residue with hexane yielded 0.420 g (1.2 mmol, 52% of theory) of the title compound having a melting point of 120-122° C.

reactant | Triethylamine | 2.76 mmol, 0.280 g | C(C)N(CC)CC | C6H15N
reactant | cis-4-tert-butylcyclohexylamine | 2.53 mmol, 0.393 g | C(C)(C)(C)[C@H]1CC[C@H](CC1)N | C10H21N
reactant | 5-ethyl-6,7-dichloro-[1,2,4]triazolo[1,5-a]pyrimidine | 2.3 mmol, 0.500 g | C(C)C1=NC=2N(C(=C1Cl)Cl)N=CN2 | C7H6Cl2N4
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (cis-4-tert-butyl-cyclohexyl)-[6-chloro-5-ethyl-[1,2,4]triazolo[1,5-a]pyrimidin-7-yl]-amine | C(C)(C)(C)[C@H]1CC[C@H](CC1)NC1=C(C(=NC=2N1N=CN2)CC)Cl | C17H26ClN5
